US08420655B2
5-{1-tert-Butyl-2-[5-(1,5-dimethyl-1H-pyrazol-4-yl)-2-[1,2,4]triazol-1-yl-phenyl]-1H-benzoimidazol-5-yl}-pyrimidin-2-ylamine
To a solution of 4-(2-amino-pyrimidin-5-yl)-N1-tert-butyl-benzene-1,2-diamine (100 mg, 0.39 mmol) in DMF (10 mL) is added crude 5-(1,5-dimethyl-1H-pyrazol-4-yl)-2-[1,2,4]triazole-1-yl-benzaldehyde (112 mg, 0.42 mmol) at room temperature. Oxone (239 mg, 0.39 mmol) in H2O (1 mL) is added and the solution is stirred at the same temperature for 3 hours. Sat. sodium thiosulfate (10 mL) is added and the mixture is extracted with EtOAc (3×10 mL) and H2O (10 mL). The combined organic layer is dried with MgSO4 (1 g) and is filtered. The filtrate is concentrated and the residue is purified by silica gel flash column chromatography with 10% MeOH in CH2Cl2 as the eluent to afford the title compound (81 mg, 41%). LCMS (ESMS): m/z: 505.40 (M++1).

reactant | 4-(2-amino-pyrimidin-5-yl)-N1-tert-butyl-benzene-1,2-diamine | 0.39 mmol, 100 mg | NC1=NC=C(C=N1)C=1C=C(C(=CC1)NC(C)(C)C)N | C14H19N5
reactant | 5-(1,5-dimethyl-1H-pyrazol-4-yl)-2-[1,2,4]triazole-1-yl-benzaldehyde | 0.42 mmol, 112 mg | CN1N=CC(=C1C)C=1C=CC(=C(C=O)C1)N1N=CN=C1 | C14H13N5O
reactant | Oxone | 0.39 mmol, 239 mg | OOS(=O)[O-].[K+]
reactant | sodium thiosulfate | 10 mL | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | H2O | 1 mL | O | H2O
product | 5-{1-tert-Butyl-2-[5-(1,5-dimethyl-1H-pyrazol-4-yl)-2-[1,2,4]triazol-1-yl-phenyl]-1H-benzoimidazol-5-yl}-pyrimidin-2-ylamine | 81 mg, 41% | C(C)(C)(C)N1C(=NC2=C1C=CC(=C2)C=2C=NC(=NC2)N)C2=C(C=CC(=C2)C=2C=NN(C2C)C)N2N=CN=C2 | C28H28N10
